US04252963
182 Parts of 4-methoxyphenyl-thiourea are suspended in 900 parts of toluene; 310 parts of thionyl chloride are added over a period of 1 hour at 20° to 30° C. The temperature of the mixture is then uniformly raised to 110° C. within 2 hours while stirring, stirring is continued for 2 hours under reflux, 20 parts of kieselguhr are added and the toluene is distilled off by blowing in steam. The solution of 6-methoxy-2-aminobenzthiazole hydrochloride obtained is clarified by adding 5 parts of charcoal, filtered and the clear filtrate is added to 175 parts of 25% aqueous ammonia solution.

reactant | 4-methoxyphenyl-thiourea | COC1=CC=C(C=C1)NC(=S)N | C8H10N2OS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-methoxy-2-aminobenzthiazole hydrochloride | Cl.COC1=CC2=C(N=C(S2)N)C=C1 | InChI=1S/C8H8N2OS.ClH/c1-11-5-2-3-6-7(4-5)12-8(9)10-6;/h2-4H,1H3,(H2,9,10);1H
